*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.20e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J221JX01
* Property : C = 2.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J221JX01 Port1 Port2
C01 Port1 N01 2.20e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.61e-10
R03 N02 N03 1.21e-02
C04 N03 N04 9.96e-09
R04 N03 N04 9.40e+03
L05 N04 N05 1.02e-10
R05 N04 N05 7.69e-02
C06 N05 N06 2.88e-07
L06 N05 N06 1.71e-11
R06 N05 N06 1.12e-02
C07 N06 N07 1.55e-09
L07 N06 N07 1.24e-11
R07 N06 N07 5.22e-01
C08 N07 N08 1.96e-10
L08 N07 N08 3.48e-11
R08 N07 N08 1.46e+00
C09 N08 N09 9.40e-11
L09 N08 N09 1.89e-11
R09 N08 N09 8.12e-01
C10 N09 Port2 8.88e-13
L10 N09 Port2 3.30e-10
R10 N09 Port2 1.44e+02
.ENDS GCM21A5C2J221JX01
